US07405300B2
1-(4-Pyridyl)-1H-indole-2,3-dione
A mixture of 1H-indole-2,3-dione (isatin, 552 mg, 3.75 mmol), pyridine-4-boronic acid (922 mg, 7.5 mmol), anhyd cupric acetate (1.36 mg, 7.5 mmol), activated 4A molecular sieve (2.0 g), triethylamine (1.05 mL, 7.5 mmol), pyridine (607 μL, 7.5 mmol) and dichloromethane (50 mL) is stirred for 24 hr at room temperature. The mixture is filtered through a pad of hyflo and evaporated. The residue is stirred with ethyl acetate, the insoluble copper salts removed by filtration and the filtrate is evaporated. The residue is purified by flash chromatography eluting with pentne-30 to 80% ethyl acetate to give the title compound.

reactant | 1H-indole-2,3-dione | 3.75 mmol, 552 mg | N1C(C(C2=CC=CC=C12)=O)=O | C8H5NO2
reactant | pyridine-4-boronic acid | 7.5 mmol, 922 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | triethylamine | 7.5 mmol, 1.05 mL | C(C)N(CC)CC | C6H15N
reactant | pyridine | 7.5 mmol, 607 μL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1-(4-Pyridyl)-1H-indole-2,3-dione | N1=CC=C(C=C1)N1C(C(C2=CC=CC=C12)=O)=O | C13H8N2O2
